US06537948B1
To a mixture of 1 ml of N,N-dimethylformamide and 26 mg of sodium hydride, a solution of 126 mg of ethyl 3-amino-4,4,4-trifluorocrotonate in 1 ml of N,N-dimethylformamide was added and the mixture was stirred at 0° C. Thereafter, to the reaction mixture was added a mixture of 266 mg of 4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl isocyanate and 1 ml of N,N-dimethylformamide at the same temperature, and the mixture was stirred over night at room temperature. The reaction solution was poured into a mixture of hydrochloric acid and ice water, and to obtain 3-{2-chloro-4-fluoro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine.

reactant | sodium hydride | 26 mg | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 126 mg | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl isocyanate | 266 mg | ClC1=CC(=C(C=C1OC=1C(=NC=CC1)OCC(=O)OC)N=C=O)F | C15H10ClFN2O5
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-{2-chloro-4-fluoro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OC)C=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O | C19H12ClF4N3O6
